US07981874B2
1,1-dimethylethyl [3-({[4-(chloromethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate (20 g, 45.8 mmol), potassium phthalimide (9.33 g, 50.4 mmol) and potassium iodide (1.52 g, 9.15 mmol) were stirred in DMF (81 mL) at 50° C. overnight. Room temperature was attained, H2O was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was triturated in MeOH to give 1,1-dimethylethyl {3-[({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}carbonyl)amino]biphenyl-4-yl}carbamate as a pale yellow solid.

reactant | 1,1-dimethylethyl [3-({[4-(chloromethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate | 45.8 mmol, 20 g | ClCC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H25ClN2O3
reactant | potassium phthalimide | 50.4 mmol, 9.33 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium iodide | 9.15 mmol, 1.52 g | [I-].[K+]
reactant | H2O | O | H2O
solvent | DMF | 81 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl {3-[({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}carbonyl)amino]biphenyl-4-yl}carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C33H29N3O5
